US04163789
Triethylamine (5.6 ml; 0.04 moles) and ethyl chloroformate (3.84 ml; 0.04 moles) were added successively to a stirred suspension of 2-methoxy-4-amino-5-chlorobenzoic acid (8 g; 0.04 moles) in anhydrous tetrahydrofuran (300 ml) whilst maintaining the temperature beween -5° and -10° C. After stirring at this temperature for 0.5 hours, a solution of 1-cyclohexylmethyl-4-aminopiperidine (7.85 g; 0.04 moles) in anhydrous tetrahydrofuran (50 ml) was added, the temperature was maintained at -5° to -10° C. for 1 hour and then allowed overnight to reach room temperature. The solvent of the mixture was removed in vacuo, the residue poured into water, extracted with chloroform and the organic layer washed with water. The chloroformic solution was dried (Na2SO4) and the solvent removed in vacuo to give a solid which was triturated with a mixture of methanol and diethyl ether. N-(1-Cyclohexylmethylpiperid-4-yl)-2-methoxy-4-amino-5-chlorobenzamide (8 g) was thus obtained.

reactant | Triethylamine | 0.04 moles, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.04 moles, 3.84 ml | ClC(=O)OCC | C3H5ClO2
reactant | 2-methoxy-4-amino-5-chlorobenzoic acid | 0.04 moles, 8 g | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
reactant | 1-cyclohexylmethyl-4-aminopiperidine | 0.04 moles, 7.85 g | C1(CCCCC1)CN1CCC(CC1)N | C12H24N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(1-Cyclohexylmethylpiperid-4-yl)-2-methoxy-4-amino-5-chlorobenzamide | 8 g | C1(CCCCC1)CN1CCC(CC1)NC(C1=C(C=C(C(=C1)Cl)N)OC)=O | C20H30ClN3O2
